US08314098B2
Synthesis of N-(2,2-dimethyl-2,3-dihydro-benzofuran-7-yl-methyl-idene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 71)
To a solution of 7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl-hydrazine (20 mg, 0.065 mM) in absolute ethanol (2.0 mL), there were added 2,2-dimethyl-2,3-dihydro-benzofuran (17 mg, 0.097 mM) and acetic acid (2.0 μL) and the mixture was stirred at room temperature for 3 hours. Water was added to the mixture, the mixture was then extracted with ethyl acetate and then the resulting organic phase was washed with a saturated aqueous common salt solution. After the drying of the organic phase over anhydrous magnesium sulfate, the organic phase was concentrated under reduced pressure. The resulting residue was purified by the NH-silica gel column chromatography (ethyl acetate:hexane=1:2) to thus give the title compound (18 mg, yield: 60%).

reactant | 7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl-hydrazine | 0.065 mM, 20 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 2,2-dimethyl-2,3-dihydro-benzofuran | 0.097 mM, 17 mg | CC1(OC2=C(C1)C=CC=C2)C | C10H12O
reactant | acetic acid | 2.0 μL | C(C)(=O)O | C2H4O2
reactant | Water | O | H2O
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | N-(2,2-dimethyl-2,3-dihydro-benzofuran-7-yl-methyl-idene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 18 mg, yield: 60% | CC1(OC2=C(C1)C=CC=C2C=NNC2=NC=1N(C(=C2)N2CCOCC2)N=C(C1)C1=CC=CC=C1)C | C27H28N6O2
